US05849765
Step 1: 4-(Benzoxazol-2-yl)pyridine
A mixture of 2-aminophenol (10.9 g, 100 mmol), isonicotinic acid (12.3 g, 100 mmol) and boric acid (6.1 g, 100 mmol) in xylene (500 ml) was heated at reflux, under a nitrogen atmosphere, for 17 hours. The mixture was cooled to room temperature and the orange suspension partitioned between sodium hydroxide solution (4N, 500 ml) and ethyl acetate (500 ml), the phases were separated and the organic layer washed with sodium hydroxide solution (2N, 2×300 ml), water (100 ml) and brine (100 ml).

reactant | 2-aminophenol | 100 mmol, 10.9 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | isonicotinic acid | 100 mmol, 12.3 g | C(C1=CC=NC=C1)(=O)O | C6H5NO2
reactant | boric acid | 100 mmol, 6.1 g | B(O)(O)O | BH3O3
solvent | xylene | 500 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-(Benzoxazol-2-yl)pyridine | O1C(=NC2=C1C=CC=C2)C2=CC=NC=C2 | C12H8N2O
